US04764202
15.3 g (0.145 mol) of anhydrous sodium carbonate and 4.76 ml (0.048 mol) of 98% strength dichloroacetyl chloride are added in succession, at 5° C. to 10° C., to 8.0 g (0.024 mol) of 5-amino-1-(2,3,6-trichloro-4-trifluoromethyl-phenyl)-pyrazole in 80 ml of dichloromethane. The mixture is stirred for 4 hours at 5° C.-10° C. and for 13 hours at room temperature. The mixture is diluted with 80 ml of dichloromethane, filtered, and washed in succession with water and saturated sodium chloride solution. The organic phase is dried over magnesium sulphate and freed from the solvent in vacuo. 10.0 g (93.5% of theory) of 5-dichloroacetamido-1-(2,3,6-trichloro-4-trifluoromethyl-phenyl)-pyrazole of melting point 156° C.-161° C. are obtained.

reactant | sodium carbonate | 0.145 mol, 15.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloroacetyl chloride | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | 5-amino-1-(2,3,6-trichloro-4-trifluoromethyl-phenyl)-pyrazole | 0.024 mol, 8.0 g | NC1=CC=NN1C1=C(C(=C(C=C1Cl)C(F)(F)F)Cl)Cl | C10H5Cl3F3N3
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 5-dichloroacetamido-1-(2,3,6-trichloro-4-trifluoromethyl-phenyl)-pyrazole | 10.0 g, 93.5% | ClC(C(=O)NC1=CC=NN1C1=C(C(=C(C=C1Cl)C(F)(F)F)Cl)Cl)Cl | C12H5Cl5F3N3O
